US06815456B2
Preparation of t-Butyl 3-Hydroxy-1-pyrrolidine-carboxylate
A stirred solution of 3-pyrrolidinol (5.0 g 57 mmol) and potassium carbonate (8.23 g, 60 mmol) in a mixture of THF/H2O is treated with a solution of di-t-butyl dicarbonate (12.5 g, 57 mmol) in THF over a 15 minute period at room temperature, stirred for 20 h at room temperature and diluted with EtOAc. The organic phase is separated, washed with H2O, dried over Na2SO4 and concentrated in vacuo. The resultant residue is dissolved in EtOAc/hexane and filtered through a thin layer of silica gel. The silica gel layer is washed with EtOAc. The combined filtrates are concentrated in vacuo to give the title product as a white solid, 8.5 g, mp 52-54° C., identified by NMR and mass spectral analyses.

reactant | 3-pyrrolidinol | 57 mmol, 5.0 g | N1CC(CC1)O | C4H9NO
reactant | potassium carbonate | 60 mmol, 8.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-t-butyl dicarbonate | 57 mmol, 12.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF H2O | C1CCOC1.O
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | t-Butyl 3-Hydroxy-1-pyrrolidine-carboxylate | OC1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
